US04166813
2,2-Bis[4-{2-lauroyloxy-3-[N-octyl-N-(1,2,2,6,6-pentamethyl-4-piperidyl)amino]propoxy}phenyl]propane (Compound No. 112)
A mixture of 1.5 g of 2,2-bis[4-{2-hydroxy-3-[N-octyl-N-(1,2,2,6,6-pentamethyl-4-piperidyl)amino]propoxy}phenyl]propane, obtained as described in Example 20, and 3.6 g of lauric anhydride in 5 ml of xylene was refluxed, with stirring, for 7 hours. At the end of this time, 100 ml of benzene were added to the reaction mixture, and the mixture was then washed with, in turn, a 10 w/w aqueous solution of potassium carbonate and water, and then dried over anhydrous magnesium carbonate. The solvent was removed from the benzene solution by evaporation under reduced pressure and the residue thus obtained was purified by column chromatography through silica gel eluted with a 40:1 by volume mixture of ethylacetate and triethylamine. The desired compound was obtained in the form of a colourless oil having an Rf value of 0.74 on thin layer chromatography on silica gel developed with a 40:1 by volume mixture of ethylacetate and triethylamine.

reactant | 2,2-bis[4-{2-hydroxy-3-[N-octyl-N-(1,2,2,6,6-pentamethyl-4-piperidyl)amino]propoxy}phenyl]propane | 1.5 g | OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN(CCCCCCCC)C1CC(N(C(C1)(C)C)C)(C)C)O)CN(C1CC(N(C(C1)(C)C)C)(C)C)CCCCCCCC | C57H100N4O4
reactant | lauric anhydride | 3.6 g | C(CCCCCCCCCCC)(=O)OC(CCCCCCCCCCC)=O | C24H46O3
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,2-Bis[4-{2-lauroyloxy-3-[N-octyl-N-(1,2,2,6,6-pentamethyl-4-piperidyl)amino]propoxy}phenyl]propane | C(CCCCCCCCCCC)(=O)OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CN(CCCCCCCC)C1CC(N(C(C1)(C)C)C)(C)C)OC(CCCCCCCCCCC)=O)CN(C1CC(N(C(C1)(C)C)C)(C)C)CCCCCCCC | C81H144N4O6
